US04125732
2-(p-Fluorophenoxy)-1-propanol O-methanesulfonate
As described in Example 56, 7.7 g of 2-(p-fluorophenoxy)-1-propanol is reacted with 8.8 ml of methanesulfonyl chloride in 400 ml of dichloromethane in the presence of 12.5 ml of triethylamine. The product is obtained as a pale yellow liquid.

reactant | 2-(p-fluorophenoxy)-1-propanol | 7.7 g | FC1=CC=C(OC(CO)C)C=C1 | C9H11FO2
reactant | methanesulfonyl chloride | 8.8 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 12.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-(p-Fluorophenoxy)-1-propanol O-methanesulfonate | CS(=O)(=O)OCC(C)OC1=CC=C(C=C1)F | C10H13FO4S
